US07244841B2
5,10,15-tris-(4-Hydroxy-phenyl)-20-(4-undecyloxy-phenyl)-porphyrin
To a vigorously-stirred suspension of 5,10,15,20-tetrakis-(4-hydroxy-phenyl)-porphyrin (400 mg, 0.59 mmol) and K2CO3 (1.0 g, 7.1 mmol) in DMF (75 mL), a solution of 1-bromoundecane (0.1 mL, 0.45 mmol) in DMF (10 mL) is added dropwise at 50° C. during 30 mins and the mixture is stirred at the same temperature for 1.5 h. After removal by filtration of K2CO3 and removal under reduced pressure of DMF, the residue obtained is dissolved in dichloromethane (200 mL), washed with water (3×150 mL) and the solution dried (Na2SO4). The solvent is evaporated under reduced pressure and the residue obtained is dissolved in toluene:ethanol (5:1 by vol., ca. 10 mL) and purified by chromatography using a column (5×50 cm) of silica gel (Merck 60). The column is eluted with toluene followed by toluene:ethyl acetate (2:1 by vol.) and the desired material recovered by evaporation of solvent from the appropriate fractions is dried under high vacuum. The product is obtained as violet crystals.

reactant | 5,10,15,20-tetrakis-(4-hydroxy-phenyl)-porphyrin | 0.59 mmol, 400 mg | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)O | C44H30N4O4
reactant | K2CO3 | 7.1 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromoundecane | 0.45 mmol, 0.1 mL | BrCCCCCCCCCCC | C11H23Br
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | toluene ethanol | ca. 10 mL | C1(=CC=CC=C1)C.C(C)O
product | 5,10,15-tris-(4-Hydroxy-phenyl)-20-(4-undecyloxy-phenyl)-porphyrin | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)OCCCCCCCCCCC | C55H52N4O4
